US08614209B2
cis-2,3-Dihydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.246 g, 1.13 mmol) was dissolved in dibromoethane (1.7 mL) and tetrabutyl ammonium bromide (71 mg, 2.2 mmol) was added. Sodium hydroxide (50% aqueous solution, 17.8 g) was added slowly over 10 minutes at 50° C. A further amount of dibromoethane (7.4 mL, 105.5 mmol in total) was added and the mixture was heated at 55° C. overnight. Dibromoethane (3 mL) was added and the mixture was heated at 55° C. for a further 4 hours and then diluted with water and extracted with DCM (×2). The organics were washed with brine then dried over sodium sulfate, filtered and evaporated. The crude material was purified by chromatography on a 5 g silica II cartridge, eluting with 10-33% diethyl ether in pentane to afford hexahydro-[1,4]dioxino[2,3-b]pyridine-5-carboxylic acid tert-butyl ester as an off-white oil (0.106 g).

reactant | cis-2,3-Dihydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.13 mmol, 0.246 g | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)O)O | C10H19NO4
reactant | Sodium hydroxide | 17.8 g | [OH-].[Na+]
reactant | dibromoethane | 1.7 mL | BrC(C)Br | C2H4Br2
reactant | Dibromoethane | 3 mL | BrC(C)Br | C2H4Br2
reactant | dibromoethane | 105.5 mmol, 7.4 mL | BrC(C)Br | C2H4Br2
catalyst | tetrabutyl ammonium bromide | 2.2 mmol, 71 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | hexahydro-[1,4]dioxino[2,3-b]pyridine-5-carboxylic acid tert-butyl ester | 0.106 g | C(C)(C)(C)OC(=O)N1C2C(CCC1)OCCO2 | C12H21NO4
